US06387911B1
N-Boc-2-(2,2,2-Trifluoroethylthio)benzylamine
To a stirred solution of 2-aminomethyl-(2,2,2-trifluoroethylthio)benzene hydrochloride (500 mg, 1.94 mmol) in CH2C2 (20 mL) were added successively (BOC)2O (465 mg, 2.13 mmol), DMAP (23.7 mg, 0.194 mmol) and Et3N (0.27 mL, 1.94 mmol). The reaction mixture was stirred overnight at room temperature and was then diluted with EtOAc and washed successively with 10% aqueous citric acid, brine, and water. The organic layer was dried over MgSO4 and concentrated at reduced pressure. Silica gel chromatography (isocratic elution with 20% EtOAc-hexanes) afforded the title compound as a colorless oil:

reactant | 2-aminomethyl-(2,2,2-trifluoroethylthio)benzene hydrochloride | 1.94 mmol, 500 mg | Cl.NCC1=C(C=CC=C1)SCC(F)(F)F
reactant | (BOC)2O | 2.13 mmol, 465 mg | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 1.94 mmol, 0.27 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.194 mmol, 23.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Boc-2-(2,2,2-Trifluoroethylthio)benzylamine | C(=O)(OC(C)(C)C)NCC1=C(C=CC=C1)SCC(F)(F)F | C14H18F3NO2S
